US06407235B1
To a solution of 500 mg (1.33 mmol) (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol in 10 ml CH2Cl2 were added 20 mg (0.16 mmol) DMAP and 162 mg (1.60 mmol) Et3N and 302 mg (1.60 mmol) 4-chlormethylbenzoylchloride. After 1 hour water was added and the aequous phase was extracted with methylenechloride (3×20 ml). The combined organic layers were dried over MgSO4, filtered and the solvent was removed under reduced pressure. The crude product was purified by chromatography over silica gel to give 280 mg (0.53 mmol, 40%) 4-chloromethyl-benzoic acid 4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester as colorless foam.

reactant | (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol | 1.33 mmol, 500 mg | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O)O | C20H25NO4S
reactant | Et3N | 1.60 mmol, 162 mg | CCN(CC)CC | C6H15N
reactant | 4-chlormethylbenzoylchloride | 1.60 mmol, 302 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | water | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.16 mmol, 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-chloromethyl-benzoic acid 4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester | 0.53 mmol, 280 mg, 40% | C(C1=CC=CC=C1)C1C(CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)CCl)=O)O | C28H30ClNO5S
